US05318966
4.0 g (0.01525 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 80 ml of toluene, 2.29 ml (0.016 mol) of 3-phenylpropylamine were added thereto and the mixture was boiled for 20 hours on a water separator. After concentration the residue was hydrogenated with 1.5 g of Raney-nickel in 150 ml of ethanol at 70° and 80 bar for 10 hours. The product was chromatographed over silica gel with cyclohexane/ethyl acetate 1:1. There were obtained 4.02 g (76%) of oily rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-phenyl-propyl)-2H-benzo[e]indol-2-one.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01525 mol, 4.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | 3-phenylpropylamine | 0.016 mol, 2.29 ml | C1(=CC=CC=C1)CCCN | C9H13N
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-phenyl-propyl)-2H-benzo[e]indol-2-one | 4.02 g, 76% | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCCC2=CC=CC=C2)=O | C22H25NO2
